US07368579B2
To N,N-dimethylformamide (0.9 ml) solution of 3-(4-trifluoromethylphenyl)-2-propenyl (S)-4-{3-[2-(2-chloro-6-nitrophenylthio)-4-nitroimidazol-1-yl]-2-hydroxy-2-methylpropyl}piperazin-1-carboxylate (89 mg) was added sodium tert-butoxide (16 mg) at 0° C., and stirred at the same temperature for 30 minutes. To the reaction mixture was added water and ethyl acetate, the organic layer was taken by separation. The ethyl acetate layer was washed with an aqueous solution of 5% potassium carbonate, water, and an aqueous solution being saturated with sodium chloride, then dried over anhydrous sodium sulfate. The residue obtained by removal of the solvent by distillation was purified by use of a thin layer chromatography (eluent: dichloromethane/ethyl acetate/methanol=15/15/1), there was obtained 3-(4-trifluoromethylphenyl)-2-propenyl (S)-4-(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)piperazin-1-carboxylate (32 mg, yield: 51%) as pale yellow amorphous product.

reactant | N,N-dimethylformamide | 0.9 ml | CN(C=O)C | C3H7NO
reactant | 3-(4-trifluoromethylphenyl)-2-propenyl (S)-4-{3-[2-(2-chloro-6-nitrophenylthio)-4-nitroimidazol-1-yl]-2-hydroxy-2-methylpropyl}piperazin-1-carboxylate | 89 mg | ClC1=C(C(=CC=C1)[N+](=O)[O-])SC=1N(C=C(N1)[N+](=O)[O-])C[C@@](CN1CCN(CC1)C(=O)OCC=CC1=CC=C(C=C1)C(F)(F)F)(C)O | C28H28ClF3N6O7S
reactant | sodium tert-butoxide | 16 mg | CC(C)([O-])C.[Na+]
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4-trifluoromethylphenyl)-2-propenyl (S)-4-(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)piperazin-1-carboxylate | 32 mg, yield: 51% | C[C@@]1(CN2C(O1)=NC(=C2)[N+](=O)[O-])CN2CCN(CC2)C(=O)OCC=CC2=CC=C(C=C2)C(F)(F)F | C22H24F3N5O5
